US04053608
A mixture of 0.5 g 2-methyl-3-nitroisonicotinic acid and 20 ml of thionyl chloride was refluxed gently for 30 min. and the excess thionyl chloride was removed in vacuo to leave an oil, which was treated with conc. NH4OH under cooling for 20 min. and extracted with EtOAc. The extract was washed with water and dried, the solvent was removed to give an oil, which was purified over silica gel to yield 0.2 g of 2-methyl-3-nitroisonicotinamide, mp 203° - 204° C.

reactant | 2-methyl-3-nitroisonicotinic acid | 0.5 g | CC=1C(=C(C(=O)O)C=CN1)[N+](=O)[O-] | C7H6N2O4
reactant | NH4OH | [NH4+].[OH-]
solvent | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-methyl-3-nitroisonicotinamide | 0.2 g | CC=1C(=C(C(=O)N)C=CN1)[N+](=O)[O-] | C7H7N3O3
